US08748452B2
To a solution of indolizine-1-carbonitrile (0.20 g) in N-methylpyrrolidone (5 mL) were added methyl 4-iodo-2-methoxymethoxybenzoate (0.5 g), dichlorobis (triphenylphosphine) palladium (II) (0.05 g), potassium acetate (0.28 g) and water (0.05 mL), and the mixture was stirred at 100° C. for 1 hour. After cooling to room temperature, to the reaction mixture was added water, and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=100/0-0/100) to give methyl 4-(1-cyanoindolizine-3-yl)-2-methoxymethoxybenzoate (0.17 g). To a mixed solution of the obtained compound (0.17 g) in tetrahydrofuran (4.5 mL), ethanol (1.5 mL) and water (1.5 mL) was added lithium hydroxide monohydrate (0.10 g), and the mixture was stirred at room temperature overnight. To the reaction mixture was added 2 mol/L hydrochloric acid (1.5 mL), and the mixture was stirred at 50° C. overnight. After cooling to room temperature, to the reaction mixture was added water. The precipitated solid was collected by filtration, washed with water and n-hexanc, and dried under reduced pressure at 50° C. to give the title compound (0.11 g).

reactant | indolizine-1-carbonitrile | 0.20 g | C=1(C=CN2C=CC=CC12)C#N | C9H6N2
reactant | methyl 4-iodo-2-methoxymethoxybenzoate | 0.5 g | IC1=CC(=C(C(=O)OC)C=C1)OCOC | C10H11IO4
reactant | potassium acetate | 0.28 g | C(C)(=O)[O-].[K+]
reactant | water | 0.05 mL | O | H2O
solvent | N-methylpyrrolidone | 5 mL | CN1C(CCC1)=O | C5H9NO
product | methyl 4-(1-cyanoindolizine-3-yl)-2-methoxymethoxybenzoate | 0.17 g | C(#N)C=1C=C(N2C=CC=CC12)C1=CC(=C(C(=O)OC)C=C1)OCOC | C19H16N2O4
